US06809097B1
A solution of 4,7-dichloroquinoline (198 mg, 1 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (1 69 mg, 1.2 mmol), (prepared as described for the starting material in Example 1), in 2-pentanol (5 ml) containing 5M hydrochloric acid in isopropanol (0.5 ml) was heated at reflux for 2 hours. The volatiles were removed by evaporation and the residue was triturated with ether. The solid was collected by filtration, washed with isopropanol, followed by ether and dried under vacuum to give 7-chloro-4-(2-fluoro-5-hydroxy-4-methylanilino)quinoline hydrochloride (300 mg, 88%).

reactant | 4,7-dichloroquinoline | 1 mmol, 198 mg | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.2 mmol, 69 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | 2-pentanol | 5 ml | CC(CCC)O | C5H12O
solvent | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
product | 7-chloro-4-(2-fluoro-5-hydroxy-4-methylanilino)quinoline hydrochloride | 300 mg, 88% | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=C(C=C(C(=C1)O)C)F | InChI=1S/C16H12ClFN2O.ClH/c1-9-6-12(18)15(8-16(9)21)20-13-4-5-19-14-7-10(17)2-3-11(13)14;/h2-8,21H,1H3,(H,19,20);1H
